* C:\proj\classab-amp\spice\class_ab.asc
Q1 N014 N021 N023 0 BC547B
R1 N023 B- 2.2k
R3 0 N021 47k
Q4 N010 N012 N014 0 BC547B
Q5 N008 NEG_IN N014 0 BC547B
V2 IN 0 SINE(0 1 1k) AC 0
C2 N011 IN 10µ
V1 B+ 0 30
V3 0 B- 30
R8 N013 FB 22k
R9 N016 0 1k
Q6 N003 N002 N001 0 2N2907
Q7 B+ N004 N007 0 MJL3281C
Q8 B- N022 N020 0 MJL1302C
R4 N007 N013 0.22
R10 N013 N020 0.22
C3 FB N016 220µ
R14 OUT 0 1
R5 B+ N001 1k
Q3 B+ N003 N004 0 MJE340C
Q2 B- N018 N022 0 MJE350C
R2 N012 0 22k
C4 N012 0 220p
R11 N012 N011 2.2k
D1 N021 N027 1N4148
D6 N027 B- 1N4148
Q9 N010 N008 N005 0 BC557B
Q10 N008 N008 N006 0 BC557B
Q11 N018 N024 N026 0 BC547B
R6 N026 B- 680
D8 N024 N028 1N4148
D9 N028 B- 1N4148
R7 N024 0 47k
R12 B+ N005 1k
R13 B+ N006 1k
C1 N002 N003 50p
R15 N010 N002 1k
Q12 N003 N017 N018 0 BC547B
R16 N003 N017 28k
R17 N017 N018 10k
C5 N003 N018 100n
R18 N007 N004 1.5k
R19 N020 N022 1.5k
C8 N013 N015 100n
R20 N015 0 10
R21 OUT N013 10
L1 N013 OUT 10µ
C6 B+ 0 5m
C7 0 B- 5m
R24 N007 N009 1k
Q14 N003 N009 N013 0 BC547B
R25 N009 N013 8.2k
C9 N009 N003 470p
Q15 N018 N019 N013 0 BC557B
R26 N020 N019 1k
R27 N013 N019 8.2k
C10 N019 N018 470p
V4 FB NEG_IN AC 1
.model D D
.lib C:\Users\pontu\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\pontu\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 100m 0 5u
.four 1000 10 5 v(out)
* .ac dec 1000 10 100000k
* SIMULATED\nLOAD
.backanno
.end
